US05446146
ii) 4-(3,4,5-Trimethoxyphenyl)-1-piperazinecarbodithioic acid (Com. No. 94)
In a nitrogen atmosphere, 1.9 g of 1-(3,4,5-trimethoxyphenyl)piperazine wasdissolved in 10 ml of methanol. To the solution was dropwise added under chilling with ice 0.46 ml of carbon disulfide. After the addition was complete, the mixture was stirred at room temperature for 2 hours. Precipitated crystals were collected by filtration to give 1.9 g of the desired compound as a gray-brown powder, m.p. 183°-190° C. (decomp.), yield 77.7%.

reactant | 1-(3,4,5-trimethoxyphenyl)piperazine | 1.9 g | COC=1C=C(C=C(C1OC)OC)N1CCNCC1 | C13H20N2O3
reactant | carbon disulfide | C(=S)=S | CS2
solvent | methanol | 10 ml | CO | CH4O
product | 4-(3,4,5-Trimethoxyphenyl)-1-piperazinecarbodithioic acid | 1.9 g, yield 77.7% | COC=1C=C(C=C(C1OC)OC)N1CCN(CC1)C(=S)S | C14H20N2O3S2
